US07449456B2
4-(4-nitrophenyl)butanoic acid and piperidine were allowed to undergo the reaction in DMF using WSC hydrochloride and HOBt, subjected to catalytic hydrogenation in the same manner as shown in Reference Example 3 to reduce the nitro group, and then reduced in the same manner as in Reference Example 2, and the resulting compound was subjected to salt formation using 4 M hydrogen chloride/ethyl acetate solution to obtain 4-(4-piperidin-1-ylbutyl) aniline dihydrochloride. F: 233.

reactant | 4-(4-nitrophenyl)butanoic acid | [N+](=O)([O-])C1=CC=C(C=C1)CCCC(=O)O | C10H11NO4
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | WSC hydrochloride | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | hydrogen chloride ethyl acetate | 4 M | Cl.C(C)(=O)OCC
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-(4-piperidin-1-ylbutyl) aniline dihydrochloride | Cl.Cl.N1(CCCCC1)CCCCC1=CC=C(N)C=C1 | InChI=1S/C15H24N2.2ClH/c16-15-9-7-14(8-10-15)6-2-5-13-17-11-3-1-4-12-17;;/h7-10H,1-6,11-13,16H2;2*1H
